2159-09-16 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   None.
   24 Hour Events:
 ARTERIAL LINE - START [**2159-9-15**] 11:32 PM
 INVASIVE VENTILATION - STOP [**2159-9-16**] 04:29 AM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2159-9-16**] 04:38 AM
   Climbed out of bed to stand this morning, independently.
   Denies chest pain/pressure, SOB, pain.
   Confused as to location.
   After extubation, BP has been higher and diuresis s/p lasix has been
   significant.
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Dextrose 50% - [**2159-9-15**] 03:15 PM
   Furosemide (Lasix) - [**2159-9-16**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-9-16**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 76 (70 - 80) bpm
   BP: 132/91(103) {103/76(85) - 138/97(109)} mmHg
   RR: 14 (9 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
             Total In:
                                                                  1,244 mL
                                                                    155 mL
   PO:
             TF:
   IVF:
                                                                    474 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                    637 mL
                                                                    440 mL
   Urine:
                                                                    587 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    607 mL
                                                                   -285 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/57/269/29/4
   Ve: 7.3 L/min
   PaO2 / FiO2: 538
   Physical Examination
   GEN: appears sleepy, NAD
   CV: RRR, no m/r/g
   PULM: rales b/l at bases
   EXTR: mild b/l edema appreciated
   Labs / Radiology
   301 K/uL
   10.4 g/dL
   67 mg/dL
   1.9 mg/dL
   29 mEq/L
   4.7 mEq/L
   35 mg/dL
   96 mEq/L
   135 mEq/L
   33.2 %
   12.3 K/uL
        [image002.jpg]
                            [**2159-9-15**]  07:03 AM
                            [**2159-9-15**]  07:56 AM
                            [**2159-9-15**]  11:08 AM
                            [**2159-9-15**]  03:20 PM
                            [**2159-9-15**]  09:56 PM
                            [**2159-9-15**]  11:16 PM
                            [**2159-9-16**]  04:07 AM
                            [**2159-9-16**]  04:56 AM
   WBC
   11.0
   14.2
   12.3
   Hct
   32.0
   35.9
   33.2
   Plt
   292
   300
   301
   Cr
   1.5
   1.6
   1.8
   1.9
   TropT
   0.08
   TCO2
   25
   29
   33
   Glucose
   77
   71
   50
   62
   67
   Other labs: PT / PTT / INR:32.5/62.3/3.3, CK / CKMB /
   Troponin-T:162/5/0.08, Lactic Acid:3.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   61 year old male with a h/o CAD s/p MI and CABG in [**2144**], chronic
   systolic heart failure (EF 20%), recurrent VT s/p ICD placement and
   atrial fibrillation transferred to the CCU for hypotension in the
   setting of VT.
   .
   # Hypotension:  Most likely related to unstable rhythm of wide-complex
   tachycardia, namely VT.  Unclear why internal ICD did not fire for
   rhythm (EP changed pacer settings yesterday based upon this concern).
   S/p attempted internal and successful external DC/CV with resolution of
   hypotension and restoration of sinus rhythm intermittently paced.
   Concerning for infectious process as well given erythematous left lower
   extremity. Now patient
s hypotension significantly improved s/p
   extubation.
   - Attempt to maintain sinus rhythm with amiodarone
   - Blood cultures
   - Antibiotics if spikes
   - Hold spironolactone, sotalol, digoxin and ace-I for now d/t
   hypotension and renal failure
   .
   # RHYTHM:  The patient has a history of Afib, h/o VT, now with several
   episodes of VT and Afib with RVR s/p external dc/cv. Pt now in sinus
   rhythm with pacing.
   - Heparin gtt for anticoagulation
   - Continue amiodarone to maintain sinus rhythm
   - Will hold sotalol for now, may decide to restart and stop amiodarone
   - monitor on telemetry
   - d/c digoxin (d/t renal failure)
   - f/u EP recs
   .
   # PUMP:  The patient has an EF of 20% on echo in [**12-8**], likely ischemic
   cardiomyopathy in the setting of anterior MI in 95.  The patient was
   being treated for decompensated failure on the [**Hospital1 2259**] service with
   lasix.  CXR on admission to CCU shows mild volume overload.  Now
   putting out significant urine to lasix; Cr rising.
   - goal I
s & O
s: >1L out today; use lasix gtt to titrate to this goal
   - monitor UOP, concern for ARF in the setting of hypotension and rising
   Cr
   - daily weights and strict I&Os
   - continue home Simvastatin, midodrine, spinolocatone
   - d/c digoxin d/t renal failure
   - consider starting low dose ACE-I; as cardiologist first
   -[**Hospital1 **] electrolytes
   .
   # CORONARIES:  The patient has a known history of CAD s/p 5 vessel CABG
   in [**2144**] and anterior MI in [**2144**]. This episode is unlikely to be an
   acute MI given no chest pain prior. Cardiac enzymes peaked and now
   downtrending.
   - Continue aspirin and simvastatin
   .
   # Hyperkalemia:  Likely secondary to poor perfusion state.
   Administered calcium gluconate, glucose, insulin, sodium bicarb and
   albuterol, and kayexelate. Corrected today.
   - [**Hospital1 **] electrolytes
   .
   # Hypothyroidism: [**1-1**] to Amiodarone toxicity, currently no symptoms.
   Restarted amiodarone emergently, will decide when to stop and restart
   sotalol.
   - continue home Levothyroxine
   .
   # LLE Erythema and R heel ulcer: concerning for site of infection.  If
   the patient has an elevated temp or drops pressure again will consider
   starting Vanc for MRSA coverage.
   - wound care
   .
   # Insomnia: stable
   - continue home Ativan PRN and Ambien
   .
   # Depression: stable. per pt, was switched to half-dose because he was
   dc'd on it completely upon last hospital discharge. so, psychiatrist
   started half dose to taper it.
   - continue buproprion 50mg [**Hospital1 **]
   - sw c/s for med noncompliance
   .
   # Anemia: Hct 36 today, at baseline.
   - continue to monitor
   - consider Fe studies
   .
   # Elev INR: unclear etiology (perhaps [**1-1**] to hepatic congestion from
   heart failure), off anticoagulation bc of h/o GIB
   - continue to monitor
   - check LFTs
   - on heparin gtt
   .
   # FEN: low Na cardiac diet
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS: SC Heparin, bowel regimen
   ICU Care
   Nutrition: Heart healthy diet now that extubated.
   Glycemic Control:  Regular insulin SS
   Lines:
   22 Gauge - [**2159-9-15**] 07:15 AM
   20 Gauge - [**2159-9-15**] 08:16 AM
   Arterial Line - [**2159-9-15**] 11:32 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:  no longer intubated
   Comments:
   Communication:  Comments: [**Name (NI) 755**] [**Name (NI) 10380**] wife  Phone: [**Telephone/Fax (1) 10602**]
   Code status: Full code
   Disposition: ICU

2159-09-17 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Recurrent ICD firing, hypotension
   24 Hour Events:
   -Initiated Amiodarone 400mg daily
   -Digoxin d/c'ed for renal failure
   -Decision for further EP intervention will be made after Haffagee
   returns Mon
   -(-)1.9L without Lasix drip (never needed, not given)
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-9-17**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 72 (70 - 79) bpm
   BP: 103/64(74) {86/47(58) - 132/93(320)} mmHg
   RR: 9 (9 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 113.3 kg (admission): 113.8 kg
   Height: 73 Inch
             Total In:
                                                                    904 mL
                                                                    306 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    304 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  3,645 mL
                                                                    415 mL
   Urine:
                                                                  3,645 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,741 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.41/43/118/31/2
   PaO2 / FiO2: 295
   Physical Examination
   GEN: appears sleepy, NAD
   CV: RRR, no m/r/g
   PULM: clear anteriorly
   ABD: soft, NT, ND, +BS
   EXTR: mild b/l edema appreciated, chronic vascular changes on L side
   appear unchanged, R side slightly warmer than L.
   Labs / Radiology
   301 K/uL
   10.4 g/dL
   133 mg/dL
   1.9 mg/dL
   31 mEq/L
   3.4 mEq/L
   38 mg/dL
   93 mEq/L
   133 mEq/L
   33.2 %
   12.3 K/uL
        [image002.jpg]
                            [**2159-9-15**]  07:03 AM
                            [**2159-9-15**]  07:56 AM
                            [**2159-9-15**]  11:08 AM
                            [**2159-9-15**]  03:20 PM
                            [**2159-9-15**]  09:56 PM
                            [**2159-9-15**]  11:16 PM
                            [**2159-9-16**]  04:07 AM
                            [**2159-9-16**]  04:56 AM
                            [**2159-9-16**]  12:45 PM
                            [**2159-9-16**]  06:01 PM
   WBC
   11.0
   14.2
   12.3
   Hct
   32.0
   35.9
   33.2
   Plt
   292
   300
   301
   Cr
   1.5
   1.6
   1.8
   1.9
   1.9
   TropT
   0.08
   TCO2
   25
   29
   33
   28
   Glucose
   77
   71
   50
   62
   67
   133
   Other labs: PT / PTT / INR:34.5/61.2/3.5, CK / CKMB /
   Troponin-T:162/5/0.08, Lactic Acid:3.6 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   61 year old male with a h/o CAD s/p MI and CABG in [**2144**], chronic
   systolic heart failure (EF 20%), recurrent VT s/p ICD placement and
   atrial fibrillation transferred to the CCU for hypotension in the
   setting of VT.
   .
   # Hypotension:  Most likely related to unstable rhythm of wide-complex
   tachycardia, namely VT.  Unclear why internal ICD did not fire for
   rhythm (EP changed pacer settings yesterday based upon this concern).
   S/p attempted internal and successful external DC/CV with resolution of
   hypotension and restoration of sinus rhythm intermittently paced.
   Concerning for infectious process as well given erythematous left lower
   extremity. Now patient
s hypotension significantly improved s/p
   extubation.
   - Attempt to maintain sinus rhythm with amiodarone, will f/u EP recs
   today
   - follow cxs, fever curve.
   - Hold spironolactone, sotalol, digoxin and ace-I for now d/t
   hypotension and renal failure
   .
   # RHYTHM:  Pt now in sinus rhythm.  Dig d/c
d d/t renal failure, will
   continue to hold for now.  EP recently adjusted settings to better
   sense v-tach.
   - Continue heparin gtt for anticoagulation
   - Continue amiodarone to maintain sinus rhythm
   - monitor on telemetry
   .
   # PUMP:  The patient has an EF of 20% on echo in [**12-8**], likely ischemic
   cardiomyopathy in the setting of anterior MI in 95.  The patient was
   being treated for decompensated failure on the [**Hospital1 2259**] service with
   lasix.  CXR on admission to CCU shows mild volume overload.  Now
   putting out significant urine to lasix; Cr rising.
   - continue aggresived diuresis goal I
s & O
s: >1L out today; will use
    lasix gtt to titrate to this goal
   - monitor UOP, concern for ARF in the setting of hypotension and rising
   Cr
   - daily weights and strict I&Os
   - continue home Simvastatin, midodrine, spinolocatone
   - consider starting low dose ACE-I
   -[**Hospital1 **] electrolytes
   .
   # CORONARIES:  The patient has a known history of CAD s/p 5 vessel CABG
   in [**2144**] and anterior MI in [**2144**]. This episode is unlikely to be an
   acute MI given no chest pain prior. Cardiac enzymes peaked and now
   downtrending.
   - Continue aspirin and simvastatin
   .
   # Hyperkalemia:  Likely secondary to poor perfusion state.
   Administered calcium gluconate, glucose, insulin, sodium bicarb and
   albuterol, and kayexelate. Currently stable.
   - [**Hospital1 **] electrolytes
   .
   # Hypothyroidism: [**1-1**] to Amiodarone toxicity, currently no symptoms.
   Restarted amiodarone emergently, will decide when to stop and restart
   sotalol.
   - continue home Levothyroxine
   .
   # LLE Erythema and R heel ulcer: concerning for site of infection.  If
   the patient has an elevated temp or drops pressure again will consider
   starting Vanc for MRSA coverage.
   - wound care
   .
   # Insomnia: stable
   - continue home Ativan PRN and Ambien
   .
   # Depression: stable. per pt, was switched to half-dose because he was
   dc'd on it completely upon last hospital discharge. so, psychiatrist
   started half dose to taper it.
   - continue buproprion 50mg [**Hospital1 **]
   - sw c/s for med noncompliance
   .
   # Anemia: Relatively stable.  Will continue to monitor.
   - continue to monitor
   - add iron studies
   .
   # Elev INR: unclear etiology (perhaps [**1-1**] to hepatic congestion from
   heart failure), off anticoagulation bc of h/o GIB
   - continue to monitor
   - check LFTs
   - on heparin gtt
   .
   # FEN: low Na cardiac diet
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS: SC Heparin, bowel regimen
   ICU Care
   Nutrition:  heart healthy
   Glycemic Control:
   Lines:
   22 Gauge - [**2159-9-15**] 07:15 AM
   20 Gauge - [**2159-9-15**] 08:16 AM
   Arterial Line - [**2159-9-15**] 11:32 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To floor today